US09340546B2
3-chloro-5-fluoro-4-iodo-pyridine (750 mg, 2.913 mmol), tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,6-dihydro-2H-pyridine-1-carboxylate (990.7 mg, 3.204 mmol) and Pd(PPh3)2Cl2 (102.2 mg, 0.1456 mmol) in DME (15 mL) were degassed using 3×vacuum/nitrogen cycles. Na2CO3 (4.370 mL of 2 M, 8.739 mmol) was added followed by further degassing and the reaction heated at 90° C. for 2 hours. The reaction was cooled to ambient temperature and diluted with EtOAc/water. The layers were separated and the aqueous layer extracted with EtOAc (×3). The combined organic extracts were washed with brine (×1), dried (MgSO4), filtered and concentrated in vacuo. The residue was purified by column chromatography (ISCO Companion, 80 g column, eluting with 0 to 20% EtOAc/Petroleum Ether, loaded in DCM) to give tert-butyl 3′-chloro-5′-fluoro-5,6-dihydro-[4,4′-bipyridine]-1(2H)-carboxylate as an off-white solid (708 mg, 78% Yield). MS (ES+) 313.1.

reactant | 3-chloro-5-fluoro-4-iodo-pyridine | 2.913 mmol, 750 mg | ClC=1C=NC=C(C1I)F | C5H2ClFIN
reactant | tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,6-dihydro-2H-pyridine-1-carboxylate | 3.204 mmol, 990.7 mg | CC1(OB(OC1(C)C)C=1CCN(CC1)C(=O)OC(C)(C)C)C | C16H28BNO4
reactant | Na2CO3 | 8.739 mmol, 2 M, 4.370 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 15 mL | COCCOC | C4H10O2
catalyst | Pd(PPh3)2Cl2 | 0.1456 mmol, 102.2 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | tert-butyl 3′-chloro-5′-fluoro-5,6-dihydro-[4,4′-bipyridine]-1(2H)-carboxylate | 708 mg, 78% Yield | ClC=1C=NC=C(C1C1=CCN(CC1)C(=O)OC(C)(C)C)F | C15H18ClFN2O2
